US06159967
80(a) 2-[(5R)-(3,4-Dichlorophenyl)-3(3,4-dimethoxybenzenesulfonyl)oxazolidin-5-yl]ethanol t-butyldimethylsilyl ether
1.00 g (2.72 mmole) of 2-[(5R)-(3,4-dichlorophenyl)oxazolidin-5-yl]ethanol t-butyldimethylsilyl ether [prepared as described in the first part of Example 1(f)] was dissolved in 10 ml of pyridine, and 773 mg (3.27 mmole) of 3,4-dimethoxybenzenesulfonyl chloride were added to the resulting solution, whilst ice-cooling. The mixture was then stirred for 2 hours under a nitrogen atmosphere. At the end of this time, the reaction mixture was poured into 100 ml of ice-cooled 10% w/v aqueous hydrochloric acid, and then extracted with ethyl acetate. The organic extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography, using a gradient elution method, with mixtures of hexane and ethyl acetate ranging from 10:1 to 2:1 by volume as the eluent, to give 1.27 g of the title compound as white crystals.

reactant | 2-[(5R)-(3,4-dichlorophenyl)oxazolidin-5-yl]ethanol t-butyldimethylsilyl ether | 2.72 mmole, 1.00 g | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1CNC(O1)C1=CC(=C(C=C1)Cl)Cl | C17H27Cl2NO2Si
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 3.27 mmole, 773 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(5R)-(3,4-Dichlorophenyl)-3(3,4-dimethoxybenzenesulfonyl)oxazolidin-5-yl]ethanol t-butyldimethylsilyl ether | 1.27 g | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1CN(C(O1)C1=CC(=C(C=C1)Cl)Cl)S(=O)(=O)C1=CC(=C(C=C1)OC)OC | C25H35Cl2NO6SSi
